US06544985B2
8-Chloro-4-[3-(2-methyl-oxazol-4-yl)-phenyl]-7-(methyl-propyl-amino)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from [2-amino-4-chloro-5-(methyl-propyl-amino)-phenyl]-carbamic acid tert-butyl ester (0.16 g) (Example J8) and 3-oxo-3-[3-(2-methyl-oxazol-4-yl)-phenyl]-propionic acid tert-butyl ester (0.17 g) (Example K29) according to the general procedure M. The obtained material was deprotected and cyclized by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a yellow solid (0.07 g).

reactant | [2-amino-4-chloro-5-(methyl-propyl-amino)-phenyl]-carbamic acid tert-butyl ester | 0.16 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(CCC)C)Cl)N)=O | C15H24ClN3O2
reactant | 3-oxo-3-[3-(2-methyl-oxazol-4-yl)-phenyl]-propionic acid tert-butyl ester | 0.17 g | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C=1N=C(OC1)C)=O)=O | C17H19NO4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Chloro-4-[3-(2-methyl-oxazol-4-yl)-phenyl]-7-(methyl-propyl-amino)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2N=C(OC2)C)=O)C1)N(CCC)C | C23H23ClN4O2
